* C:\Users\ohvic\Documents\ITBA\ASSD-2020-G4\TP1 - Muestreo\Filtro LP\SPICE\Todo en uno\Filter.asc
XU1 0 N005 +Vcc -Vcc N001 TL082
V1 +Vcc 0 +15
V2 -Vcc 0 -15
R1 N004 Vin 1k
R2 N005 N004 2.0806k
R3 N004 N001 1k
C1 N004 0 46.708n
C2 N001 N005 100p
XU2 0 N007 +Vcc -Vcc N002 TL082
R4 N006 N001 1k
R5 N007 N006 9.2467k
R6 N006 N002 1k
C3 N006 0 13.913n
C4 N002 N007 100p
XU3 0 N009 +Vcc -Vcc N003 TL082
R7 N008 N002 1k
R8 N009 N008 25.462k
R9 N008 N003 1k
C5 N008 0 8.7687n
C6 N003 N009 100p
XU4 0 N011 +Vcc -Vcc Vout TL082
R10 N010 N003 1k
R11 N011 N010 59.900k
R12 N010 Vout 1k
C7 N010 0 7.1039n
C8 Vout N011 100p
V3 Vin 0 AC 1
.ac dec 1000 10k 100k
.lib C:\Users\ohvic\Documents\ITBA\ASSD-2020-G4\TP1 - Muestreo\Filtro LP\SPICE\TL082.301
.backanno
.end
