* C:\Users\ohvic\Documents\ITBA\ASSD-2020-G4\TP1 - Muestreo\OSC\oscilador_exp.asc
XU1 0 Vc1 Vm N001 N006 Vc1 N002 N001 NE555
V1 N001 0 15
R1 N001 N002 10k
D1 N005 N004 1N4148
D2 N003 N005 1N4148
XX1 N003 N002 N004 mypot params: R=20k Val=50
XX2 Vc1 N005 NC_01 mypot params: R=10k Val=1
C1 Vc1 0 1n
C2 N006 0 0.01µ

* block symbol definitions
.subckt mypot 1 2 3
R1 1 2 {RT}
R2 2 3 {RB}
.param RT=R*(Val/100)
.param RB=R*(1-(Val/100))
.ends mypot

.model D D
.lib C:\Users\ohvic\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m
.lib NE555.sub
.backanno
.end
