* C:\Users\Abril\Documents\GitHub\ASSD-2020-G4\TP1 - Muestreo\SH\lf398.asc
C1 N003 0 10n
R1 Out 0 10K
Vl N002 0 PULSE(0 2 0.01 1n 1n 0.1 0.2) Rser=100 Cpar=100p
V+ V+ 0 16 Rser=0.1 Cpar=100p
V- V- 0 -16 Rser=0.1 Cpar=100p
Vin N001 0 SINE(0 10 1 0) Rser=100 Cpar=100p
XU1 N001 N002 0 V- N003 Out V+ LF398H
.tran 0 3 0 100u startup
.include LF398.sub
.backanno
.end
