* C:\Users\Abril\Documents\GitHub\ASSD-2020-G4\TP1 - Muestreo\SPICE FINAL\main.asc
XFAA Vi +Vcc -Vcc N001 lprauch
XFR N002 +Vcc -Vcc Vo lprauch
XS_H NC_01 NC_02 NC_03 NC_04 NC_05 sh
XA_S N003 N001 N002 analog-switch
V1 +Vcc 0 +15
V2 -Vcc 0 -15
V3 Vi 0 SINE(0 5 10k 0 0 0 1k)
V4 N003 0 PULSE(0 5 1u 1n 1n 26.68u 13.34u)

* block symbol definitions
.subckt lprauch Vin Vcc Vee Vout
XX1 Vin 0 Vcc Vee N001 low-pass-rauch-block1
XX2 N001 0 Vcc Vee N002 low-pass-rauch-block2
XX3 N002 0 Vcc Vee N003 low-pass-rauch-block3
XX4 N003 0 Vcc Vee Vout low-pass-rauch-block4
.ends lprauch

.subckt sh CTRL IN OUT Vcc Vee
XU1 IN CTRL 0 Vcc N001 OUT Vee LF398H
C1 N001 0 1n
.include LF398.sub
.ends sh

.subckt analog-switch CTRL Vin Vout
S1 Vin Vout CTRL 0 SW
R2 Vout 0 1k
.model SW SW(Ron=240 Roff=10T Vt=1.75 Vh=1.05 )
.ends analog-switch

.subckt low-pass-rauch-block1 Vin GND Vcc Vee Vout
XU1 0 N002 Vcc Vee Vout TL082
R1 N001 Vin 1k
R2 N002 N001 2.0806k
R3 N001 Vout 1k
C1 N001 0 36n
C2 Vout N002 100p
.ends low-pass-rauch-block1

.subckt low-pass-rauch-block2 Vin GND Vcc Vee Vout
XU1 0 N002 Vcc Vee Vout TL082
R1 N001 Vin 1k
R2 N002 N001 9.25k
R3 N001 Vout 1k
C1 N001 0 13.9n
C2 Vout N002 100p
.ends low-pass-rauch-block2

.subckt low-pass-rauch-block3 Vin GND Vcc Vee Vout
XU1 0 N002 Vcc Vee Vout TL082
R1 N001 Vin 1k
R2 N002 N001 25.5k
R3 N001 Vout 1k
C1 N001 0 8.77n
C2 Vout N002 100p
.ends low-pass-rauch-block3

.subckt low-pass-rauch-block4 Vin GND Vcc Vee Vout
XU1 0 N002 Vcc Vee Vout TL082
R1 N001 Vin 1k
R2 N002 N001 59.9k
R3 N001 Vout 1k
C1 N001 0 7.10n
C2 Vout N002 100p
.ends low-pass-rauch-block4

.tran 0 0.1m 0
.lib C:\Users\Abril\Documents\GitHub\ASSD-2020-G4\TP1 - Muestreo\Filtro LP\SPICE\TL082.301
.backanno
.end
